US08809369B2
A mixture of N-[2-(3-methoxy-phenyl)-4,4-dimethyl-1,2,3,4-tetrahydro-quinoline-6-carbonyl]-methanesulfonamide (1.0 g, 2.95 mmol), sodium hydroxide (0.59 g, 14.75 mmol), water (15 mL) in acetonitrile (30 mL) was stirred at 60° C. for 12 h. The mixture was neutralized with a 3 N aqueous hydrochloric acid solution and extracted with ethyl acetate (2×50 mL), washed with water, dried over anhydrous sodium sulfate and then concentrated in vacuo to afford 2-(3-methoxy-phenyl)-4,4-dimethyl-1,2,3,4-tetrahydro-quinoline-6-carboxylic acid (0.83 g, 90%) as a white solid which was used for next step without further purification: MS (ESI) M+1=312.2.

reactant | N-[2-(3-methoxy-phenyl)-4,4-dimethyl-1,2,3,4-tetrahydro-quinoline-6-carbonyl]-methanesulfonamide | 2.95 mmol, 1.0 g | COC=1C=C(C=CC1)C1NC2=CC=C(C=C2C(C1)(C)C)C(=O)NS(=O)(=O)C | C20H24N2O4S
reactant | sodium hydroxide | 14.75 mmol, 0.59 g | [OH-].[Na+]
reactant | water | 15 mL | O | H2O
reactant | hydrochloric acid | 3 N | Cl | ClH
solvent | acetonitrile | 30 mL | C(C)#N | C2H3N
product | 2-(3-methoxy-phenyl)-4,4-dimethyl-1,2,3,4-tetrahydro-quinoline-6-carboxylic acid | 0.83 g, 90% | COC=1C=C(C=CC1)C1NC2=CC=C(C=C2C(C1)(C)C)C(=O)O | C19H21NO3
